US06759557B2
2-Hydroxy-11-cycloeicosenone of Synthesis Example 7 was replaced by 2-hydroxy-9-cyclooctadecenone (1.0 g, 3.54 mmol), and a hydrogenation and subsequent treatment were performed under the same conditions as in Synthesis Example 7, to yield 1.0 g of 2-hydroxycyclooctadecanone (quantitative yield).

reactant | 2-Hydroxy-11-cycloeicosenone | OC1C(CCCCCCCCC=CCCCCCCCC1)=O | C20H36O2
reactant | 2-hydroxy-9-cyclooctadecenone | 3.54 mmol, 1.0 g | OC1C(CCCCCCCCC=CCCCCCC1)=O | C18H32O2
product | 2-hydroxycyclooctadecanone | 1.0 g, quantitative yield | OC1C(CCCCCCCCCCCCCCCC1)=O | C18H34O2
